US05136090
To 5 ml of a DMF solution containing 200 mg (0.5181 mmol) of 2,2'-dihydroxy-5,5'-bis (3-methoxycarbonylpropyl) biphenyl and 0.646 ml (5.181 mmol) of 1-bromo-chloropropane, there were added 85.8 mg (0.6217 mmol) of anhydrous potassium carbonate and a small amount of copper powder and the resulting mixture was agitated for 5 hours at room temperature. The reaction mixture was filtered by suction through Celite to remove the solid matter and the filtrate was washed with ethyl acetate. After the solvent in the filtrate was evaporated off under reduced pressure, the evaporated residue was dissolved in chloroform. This solution was washed with dilute hydrochloric sodium chloride solution in this sequence and was dried by adding anhydrous sodium sulfate. The residue obtained after the solvent had been evaporated off was purified by silica gel column chromatography (with 15 g of WAKO-gel C-200, eluent: toluene and toluene/ethyl acetate of 100/1) to obtain 206 mg (0.4454 mmol, 86%) of 2-(3-chloropropoxy-2' -hydroxy-5,5'-bis (3-methoxycarbonylpropyl) biphenyl as an oily product. 1H-NMR (CDCl3) δ (ppm): 1.8-2.2 (6H, m, 3CH2), 2.36 (4H, t, 2CH2), 2.5-2.8 (4H, m, 2CH2), 3.51 (2H, t, CH2), 3.66 (6H, s, 2CH3), 4.16 (2H, t, CH2), 6.05 (1H, s, OH), 6.8-7.3 (6H, m, arom-H) MS (FAB): 461 (M-H)-

reactant | 2,2'-dihydroxy-5,5'-bis (3-methoxycarbonylpropyl) biphenyl | 0.5181 mmol, 200 mg | OC1=C(C=C(C=C1)CCCC(=O)OC)C1=C(C=CC(=C1)CCCC(=O)OC)O | C22H26O6
reactant | 1-bromo-chloropropane | 5.181 mmol, 0.646 ml | BrC(CC)Cl | C3H6BrCl
reactant | potassium carbonate | 0.6217 mmol, 85.8 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | [Cu] | Cu
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-chloropropoxy-2' -hydroxy-5,5'-bis (3-methoxycarbonylpropyl) biphenyl | ClCCCOC1=C(C=C(C=C1)CCCC(=O)OC)C1=C(C=CC(=C1)CCCC(=O)OC)O | C25H31ClO6
